US04518597
8-[4-(4-Cyclohexyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 8-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-cyclohexyl-thiophenol.

reactant | 8-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C14H18ClNO3
reactant | 4-cyclohexyl-thiophenol | C1(CCCCC1)C1=CC=C(C=C1)S | C12H16S
product | 8-[4-(4-Cyclohexyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)SCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C26H33NO3S
